US04200313
Following a procedure similar to that described in Example 4 but employing 3.1 g of 2-[4-(diethylamino)-2-methylbenzoyl]benzoic acid and 3.0 g of 4,4'-bis(dimethylamino)diphenylamine there was obtained 2.95 g of 3-[4-(diethylamino)-2-methylphenyl]-3-{bis[4-(dimethylamino)phenyl]amino}phthalide, m.p. 67°-83° C. A toluene solution of the product contacted with acidic clay or phenolic resin developed a black-colored image.

reactant | 2-[4-(diethylamino)-2-methylbenzoyl]benzoic acid | 3.1 g | C(C)N(C1=CC(=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1)C)CC | C19H21NO3
reactant | 4,4'-bis(dimethylamino)diphenylamine | 3.0 g | CN(C)C1=CC=C(C=C1)NC2=CC=C(C=C2)N(C)C | C16H21N3
product | 3-[4-(diethylamino)-2-methylphenyl]-3-{bis[4-(dimethylamino)phenyl]amino}phthalide | 2.95 g | C(C)N(C1=CC(=C(C=C1)C1(OC(=O)C2=CC=CC=C12)N(C1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)N(C)C)C)CC | C35H40N4O2
